US08957104B2
To a solution of 2-(5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl)propyl methanesulfonate (0.145 g, 0.402 mmol) in DMF (3 mL) was added sodium thiomethoxide (0.056 g, 0.805 mmol) in one portion. After 90 min, additional sodium thiomethoxide (2 eq) was added, and the mixture stirred for another 1 h. The reaction mixture was diluted with water (25 mL) and extracted with EtOAc (30 mL). The organic phase was washed with 0.1N HCl (1×20 mL) and brine, dried over Na2SO4, filtered and concentrated. The residue was chromatographed over silica gel using a 0-30% EtOAc-hexane gradient to give 2-methyl-1-(1-(methylthio)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.094 g, 71% yield) as a colorless oil: MS (ESI): m/z 313 (MH+).

reactant | 2-(5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl)propyl methanesulfonate | 0.402 mmol, 0.145 g | CS(=O)(=O)OCC(C)N1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C15H15F3N2O3S
reactant | sodium thiomethoxide | 0.805 mmol, 0.056 g | C[S-].[Na+]
reactant | sodium thiomethoxide | 2 eq | C[S-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 2-methyl-1-(1-(methylthio)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.094 g, 71% yield | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)C(CSC)C | C15H15F3N2S
